US04344954
2,3-Bis(o-chlorophenyl)-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol hydrochloride
A mixture of 22.6 ml. of o-chlorobenzaldehyde, 8 g. of potassium cyanide and 100 ml. of 65% ethanol is refluxed for 2 hours and then refrigerated. Water (30 ml.) is added, refrigeration is continued, then the water layer is decanted and the oil dissolved in toluene, washed with water, dried and concentrated to an oil. The crude 2,2'-dichlorobenzoin is converted to the methanesulfonate ester as described in Example 1, giving an oil. A 14.6 g. portion of this oil is reacted with 2.6 g. of hexahydro-2H-1,3-diazepin-2-thione in 100 ml. of acetone as described in Example 13, giving 1.4 g. of the desired product, m.p. 224°-226° C.

reactant | o-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | potassium cyanide | [C-]#N.[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hexahydro-2H-1,3-diazepin-2-thione | N1C(NCCCC1)=S | C5H10N2S
solvent | acetone | CC(=O)C | C3H6O
solvent | Water | 30 ml | O | H2O
product | 2,3-Bis(o-chlorophenyl)-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol hydrochloride | Cl.ClC1=C(C=CC=C1)C1C(N2C(=NCCCC2)S1)(O)C1=C(C=CC=C1)Cl | InChI=1S/C19H18Cl2N2OS.ClH/c20-15-9-3-1-7-13(15)17-19(24,14-8-2-4-10-16(14)21)23-12-6-5-11-22-18(23)25-17;/h1-4,7-10,17,24H,5-6,11-12H2;1H
